US06113527
(RS)-7-(2-Oxo-1,2-diphenyl-ethyl)-1-phenyl-1,7-diaza-spiro[3.5]nonan-2-one
A suspension of 2-chloro-1,2-diphenyl-ethanone (0.23 g, 1 mmol), 1-phenyl-1,7-diazaspiro[3.5]nonan-2-one (0.2 g, 0.9 mmol) and sodium bicarbonate (0.23 g) in 2-butanone was boiled for 4 h with stirring. The mixture was cooled, the solvent was removed in vacuo and the residue was purified by chromatography on silica gel with ethylacetate/hexane (1:2) to yield 0.33 g (87%) of the title compound. MS: m/e=411.3 (M+H+).

reactant | 2-chloro-1,2-diphenyl-ethanone | 1 mmol, 0.23 g | ClC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11ClO
reactant | 1-phenyl-1,7-diazaspiro[3.5]nonan-2-one | 0.9 mmol, 0.2 g | C1(=CC=CC=C1)N1C(CC12CCNCC2)=O | C13H16N2O
reactant | sodium bicarbonate | 0.23 g | C([O-])(O)=O.[Na+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | (RS)-7-(2-Oxo-1,2-diphenyl-ethyl)-1-phenyl-1,7-diaza-spiro[3.5]nonan-2-one | 0.33 g, 87% | O=C(C(C1=CC=CC=C1)N1CCC2(CC(N2C2=CC=CC=C2)=O)CC1)C1=CC=CC=C1 | C27H26N2O2
